US04144349
N,N-dimethyl-1,2,4,5,6,7-hexahydrothiocino[5,4-b]indole-7-ethanamine 3,3-dioxide
A mixture of 12.47g (0.05 mole) of 1,2,4,5,6,7-hexahydrothiocino[5,4-b]indole 3,3-dioxide, 2.1g (0.05 mole) of 57% dispersion sodium hydride and 5.44g (0.05 mole) of 2-dimethylaminoethyl chloride is treated according to the procedure in Example 6. There is deposited 15.3g (96%) of a solid, m.p. 154°-155° C. Recrystallization from ethyl acetate gives 11.2g (70%) of an analytical sample, m.p. 155°-156° C.

reactant | 1,2,4,5,6,7-hexahydrothiocino[5,4-b]indole 3,3-dioxide | 0.05 mole, 12.47g | C1CS(CCCC=2NC=3C=CC=CC3C21)(=O)=O | C13H15NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride | 0.05 mole, 5.44g | CN(CCCl)C | C4H10ClN
product | N,N-dimethyl-1,2,4,5,6,7-hexahydrothiocino[5,4-b]indole-7-ethanamine 3,3-dioxide | CN(CCN1C2=C(C=3C=CC=CC13)CCS(CCC2)(=O)=O)C | C17H24N2O2S
